US04304780
C. N,N'-bis-[2-[[5-[[Hydroxy(methyl)amino]methyl]-2-furanylmethy]thio]ethyl]-2-nitro-1,1-ethenediamine
A mixture of 5-[[(2-aminoethyl)thio]methyl]-N-hydroxy-N-methyl-2-furanmethanamine base (1.48 g) and 1,1-bis-(methylthio)-2-nitroethene (0.57 g) was heated at 98°-100° for 3 hr. The oily residue was chromatographed (silica/acetone) and the appropriate eluate evaporated to give the title compound (0.78 g) as an amber oil.

reactant | 5-[[(2-aminoethyl)thio]methyl]-N-hydroxy-N-methyl-2-furanmethanamine | 1.48 g | NCCSCC1=CC=C(O1)CN(C)O | C9H16N2O2S
reactant | 1,1-bis-(methylthio)-2-nitroethene | 0.57 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
product | N,N'-bis-[2-[[5-[[Hydroxy(methyl)amino]methyl]-2-furanylmethy]thio]ethyl]-2-nitro-1,1-ethenediamine | 0.78 g | ON(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCSCC=1OC(=CC1)CN(C)O | C20H31N5O6S2
